US05284857
trans-2-Carbomethoxy-5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran
A solution of trans-2-bromo-5,6-dihydro-6-hydroxy-5,5-dimethyl -7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran (1.35 g, 3.75 mmol), triethylamine (0.87 mL, 6.25 mmol) and bis(triphenylphosphine)-palladium(II) chloride (80 mg, 0.11 mmol) in methanol (120 mL) was heated in a stainless steel Parr pressure reactor pressurized with carbon monoxide (160 psi) at 100° C. for four days. The resultant solution was poured into water and extracted with dichloromethane. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo. The product was purified by flash chromatography using 2% methanol in dichloromethane as the eluant to give the product, 0.83 g (65%) as a colorless solid: mp 104°-106° C.; IR(KBr): 1718, 1618 and 1565 cm-1 ; MS: m/z 340MH+); 1H NMR(CDCl3): δ 1.29 (s, 3H), 1.49 (s, 3H), 1.43 (m, 4H), 2.53 (m, 2H), 3.14 (m, 1H), 3.23 (m, 1H), 3.52 (d, J=5.4 Hz, 1H, exchanges with D2O), 3.81 (d,d, J=5.4 Hz, J=9.5 Hz, 1H, simplifies to d, J=9.5 Hz, with D2O), 3.86 (s, 3H), 5.87 (d, J=9.5 Hz, 1H) and 7.24 (s, 1H).

reactant | trans-2-bromo-5,6-dihydro-6-hydroxy-5,5-dimethyl -7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran | 3.75 mmol, 1.35 g | BrC1=CC=2OC([C@H]([C@@H](C2S1)N1C(CCCC1)=O)O)(C)C | C14H18BrNO3S
reactant | triethylamine | 6.25 mmol, 0.87 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | water | O | H2O
reactant | methanol | 120 mL | CO | CH4O
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.11 mmol, 80 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | trans-2-Carbomethoxy-5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran | C(=O)(OC)C1=CC=2OC([C@H]([C@@H](C2S1)N1C(CCCC1)=O)O)(C)C | C16H21NO5S
